US08426449B2
Step 5: [3-(2-Azidomethyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid ethyl ester
[3-(2-Methanesulfonyloxymethyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid ethyl ester (1.0 mmol) and sodium azide (0.195 g, 3.0 mmol) were combined in DMF (10 mL) and stirred at 80° C. for 1 hour. Once no starting material was seen by analytical LCMS, the mixture was cooled to room temperature and partitioned between EtOAc and H2O. The aqueous layer was separated and extracted twice with EtOAc, and the combined organic layers were washed three times with H2O, and then dried and concentrated. The residue was purified by silica gel chromatography (0-10% EtOAc in hexanes) to give the title compound.

reactant | [3-(2-Methanesulfonyloxymethyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid ethyl ester | 1.0 mmol | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)COS(=O)(=O)C)=O | C19H19F3O6S
reactant | sodium azide | 3.0 mmol, 0.195 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | [3-(2-Azidomethyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)CN=[N+]=[N-])=O | C18H16F3N3O3
